US08648066B2
To a solution of dimethylamine (2M solution in tetrahydrofuran, 40.0 mL, 80.0 mmol) was added 2-(chloromethyl)-7-(methyloxy)quinazolin-4-ol hydrochloride (7.5 g, 29 mmol) and the reaction mixture was stirred for 90 minutes at 50° C. After cooling it to room temperature the reaction mixture was concentrated and the residue was partitioned between water (100 mL) and ethyl acetate (250 mL). The organic layer was separated and washed with water (100 mL), saturated sodium bicarbonate (100 mL) and brine (100 mL), dried over sodium sulfate, filtered and concentrated to give 2-[(dimethylamino)methyl]-7-(methyloxy)quinazolin-4-ol (6.6 g, 97%). MS (EI) for C12H15N3O2: 234 (MH+).

reactant | dimethylamine | 80.0 mmol, 2M, 40.0 mL | CNC | C2H7N
reactant | 2-(chloromethyl)-7-(methyloxy)quinazolin-4-ol hydrochloride | 29 mmol, 7.5 g | Cl.ClCC1=NC2=CC(=CC=C2C(=N1)O)OC
product | 2-[(dimethylamino)methyl]-7-(methyloxy)quinazolin-4-ol | 6.6 g, 97% | CN(C)CC1=NC2=CC(=CC=C2C(=N1)O)OC | C12H15N3O2
